US07795247B2
Step 1: methyl 2-bromo-1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-1H-indole-6-carboxylate
NaH (1.4 eq, 60% dispersion in mineral oil) was added to a solution of methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (prepared as described in published International Patent application WO 2004/065367, from commercially available methyl indole-6-carboxylate) in DMF (0.2 M) and the solution stirred at RT for 1 h. Then tert-butyl bromoacetate (1.1 eq) was added and the mixture stirred at RT for 40 min. The solvent was removed in vacuo and the residue taken up in EtOAc. The organic phase was washed with H2O (twice) and then brine. The organic phase was dried over Na2SO4, filtered and the solvent evaporated in vacuo to afford the title compound as a brownish solid (90%); MS (ES+) m/z 450 (M+H)+, m/z 452 (M+H)+

reactant | NaH | 1.4 eq | [H-].[Na+]
reactant | methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | methyl indole-6-carboxylate | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | tert-butyl bromoacetate | 1.1 eq | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 0.2 M | CN(C)C=O | C3H7NO
product | methyl 2-bromo-1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-1H-indole-6-carboxylate | 90% | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CC(=O)OC(C)(C)C | C22H28BrNO4
